US07902369B2
1) Manufacture of N-methyl-2-amino-4-bromobenzamide
30 ml of 2.0 M methylamine-methanol solution was added to 6.28 mg of 7-bromo-1H-benzo[1,3]oxazine-2,4-dion, and the mixture was stirred at room temperature for 2 hours. The reaction solution was distilled outunder reduced pressure, to obtain 6.57 mg of the above compound.

reactant | 7-bromo-1H-benzo[1,3]oxazine-2,4-dion | 6.28 mg | BrC1=CC2=C(C(NC(O2)=O)=O)C=C1 | C8H4BrNO3
reactant | methylamine methanol | 2.0 M, 30 ml | CN.CO
product | N-methyl-2-amino-4-bromobenzamide | 6.57 mg | CNC(C1=C(C=C(C=C1)Br)N)=O | C8H9BrN2O
